US04032322
While maintaining the temperature below 45°, hydrogen sulfide gas was passed for 2 hours into a stirred solution of 122.0 g of 3-amino-2-cyano-4-methyl-2-pentenenitrile and 91.5 g of triethylamino in 122 ml of pyridine. The mixture was stirred for 1 hour at room temperature, then was poured over 2 liters of ice. Th solid was collected, washed with water, dried and recrystallized from ethanol-water to give 128.3 g 3-amino-2-cyano-4-methyl-2-pentenethioamide, mp 112°-114°.

reactant | hydrogen sulfide | S | H2S
reactant | 3-amino-2-cyano-4-methyl-2-pentenenitrile | 122.0 g | NC(=C(C#N)C#N)C(C)C | C7H9N3
solvent | pyridine | 122 ml | N1=CC=CC=C1 | C5H5N
product | 3-amino-2-cyano-4-methyl-2-pentenethioamide | 128.3 g | NC(=C(C(N)=S)C#N)C(C)C | C7H11N3S
